US07595327B2
A solution of 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-pyran-3-carboxylic acid methyl ester (0.3 g, 0.64 mmol) and lithium hydroxide (0.153 g, 6.38 mmol) in THF:methanol:H2O (2.5: 1.5:1.5 mL) was stirred at 25° C. for 19 h. The solution was diluted with ethyl acetate (2×30 mL) and the aqueous layer was acidified with 2N HCl to pH ˜2. The aqueous layer was washed with ethyl acetate (3×40 mL). The combined organic layers were dried over MgSO4, filtered and concentrated to provide 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-pyran-3-carboxylic acid as a crude solid (0.280 g, 97%). MS: 457 (M+H)+.

reactant | 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-pyran-3-carboxylic acid methyl ester | 0.64 mmol, 0.3 g | COC(=O)C1COCCC1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C24H26N2O6S
reactant | lithium hydroxide | 6.38 mmol, 0.153 g | [OH-].[Li+]
reactant | HCl | 2N | Cl | ClH
solvent | THF methanol H2O | 1.5 mL | C1CCOC1.CO.O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-pyran-3-carboxylic acid | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)NC1C(COCC1)C(=O)O | C23H24N2O6S
